Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Syncope leading to ___
 
Major Surgical or Invasive Procedure:
4 stitches placed on 1cm lac

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of colon cancer
(in remission s/p surgical resection), HTN, HLD, valvular heart
disease who presents after MVC. He reports that this morning 
when
he woke up he was in his usual state of health. He did his usual
morning swim and that showered and when he got out of the shower
he reports that he felt 'woozy.' He reports that he did not eat
breakfast prior to exercising. He reports that when he was
driving he began to feel hot, sweaty, and had vision changes and
then lost consciousness. 

  Per EMS he crossed lanes and his car went into the woods
although he did not strike a tree. He was unrestrained with no
obvious injuries other than a laceration to the nasal bridge.
Mental status was appropriate per EMS, he did not have any
witnessed seizure activity. He is UTD on tdap. 

  Of note Mr. ___ reports previous ___ symptoms
associated with exercise but reports that this hasn't happened 
in
many years since he stopping lifting weights as aggressively. 

In the ED, initial vitals were: 
- Exam notable for:  
    - Laceration on nasal bridge
    - Sternal tenderness
    - Blowing pansystolic/diastolic murmur.
- Labs notable for:  

      17.2        140 | 103 | 31
  5.7>----<160    ---------------< 150   
      48.6        5.8 | 21  | 1.4

    - Troponin-T <0.01
    - Lactate 4.1 ---> 1.6
    - Serum ASA, EtOH, Acetmnphn, Tricyc: NEGATIVE
    - Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne,
Oxycodone: NEGATIVE
   - ___ 12.0     PTT 26.1 I    NR 1.1
   - VBG 7.39|48|39|30|2  
- Imaging was notable for: 
    - CT: No acute intracranial hemorrhage or calvarial 
fracture.
Mild paranasal sinus disease. 
    - CT C-Spine W/O Contrast: No acute fracture or traumatic
malalignment. Multilevel degenerative changes with mild to
moderate central canal narrowing mild to moderate at C5/C6 and
C6/C7. 1.1 cm right thyroid lobe nodule does not require
follow-up per ACR
guidelines.
    - CXR: No acute cardiopulmonary process. 
    - EKG: Normal Sinus Rhythm, RBBB, q waves in I and aVL
- Patient was given:  
    - 1L LR

Upon arrival to the floor, patient reports that he 'feels 
great.'
He denies any chest pain, shortness of breath, abdominal pain,
nausea, vomiting, hematuria, dysuria, or hematochezia. We
discussed the plan to get records from his PCP and he was
amenable. He denies any complaints or symptoms at this time. 

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative  

 
Past Medical History:
Colon Cancer s/p surgery in ___ (not requiring chemo or
radiation)
Hypertension
Hyperlipidemia
Valvular Heart Disease (waiting on PCP records for specifics)
 
Social History:
___
Family History:
Brother: ___
Mother: CHF, died in late ___
Father: ___, esophageal cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  
24 HR Data (last updated ___ @ 1512)
    Temp: 97.6 (Tm 97.6), BP: 150/53, HR: 58, RR: 17, O2 sat:
98%, O2 delivery: Ra  
GENERAL:  Older male resting comfortably in bed, laceration on
nose that was stitched in the ED
HEENT: PERRLA, EOMI, MMM
NECK: No LAD
CARDIAC: RRR with pansystolic/diastolic murmur.
LUNGS: CTAB no r/r/w
ABDOMEN: Soft, NT, ND, +BS
EXTREMITIES: Warm, well perfused, no edema
NEUROLOGIC: A&Ox3, grossly intact
SKIN: No rashes, jaundice

DISCHARGE PHYSICAL EXAM:  
VITAL SIGNS:  
24 HR Data (last updated ___ @ 620)
    Temp: 97.8 (Tm 98.1), BP: 111/62 (111-150/53-67), HR: 56
(56-59), RR: 18 (___), O2 sat: 96% (96-98), O2 delivery: RA,
Wt: 233.6 lb/105.96 kg    
GENERAL:  Older male resting comfortably in bed, laceration on
nose that was stitched in the ED
HEENT: PERRLA, EOMI, MMM
NECK: No LAD
CARDIAC: RRR with pansystolic/diastolic murmur.
LUNGS: CTAB no r/r/w
ABDOMEN: Soft, NT, ND, +BS
EXTREMITIES: Warm, well perfused, no edema
NEUROLOGIC: A&Ox3, grossly intact
SKIN: No rashes, jaundice
 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:45AM BLOOD WBC-5.7 RBC-5.41 Hgb-17.2 Hct-48.6 MCV-90 
MCH-31.8 MCHC-35.4 RDW-12.0 RDWSD-39.4 Plt ___
___ 08:45AM BLOOD Neuts-67.7 Lymphs-18.4* Monos-10.7 
Eos-2.3 Baso-0.5 Im ___ AbsNeut-3.86 AbsLymp-1.05* 
AbsMono-0.61 AbsEos-0.13 AbsBaso-0.03
___ 08:45AM BLOOD ___ PTT-26.1 ___
___ 08:45AM BLOOD Glucose-150* UreaN-31* Creat-1.4* Na-140 
K-5.8* Cl-103 HCO3-21* AnGap-16
___ 08:45AM BLOOD ALT-32 AST-74* LD(LDH)-791* AlkPhos-34* 
TotBili-1.5
___ 08:45AM BLOOD Albumin-4.9
___ 08:45AM BLOOD Prolact-35*
___ 08:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:10PM BLOOD ___ pO2-39* pCO2-48* pH-7.39 
calTCO2-30 Base XS-2
___ 08:57AM BLOOD Lactate-4.1* K-3.8

RELEVANT IMAGING:
=================
___ CT C-SPINE W/O CONTRAST   
FINDINGS:  
Streak artifact from mandibular dental hardware limits 
evaluation of the 
surrounding structures. 
Alignment is normal. No acute fractures are identified.  There 
are multilevel degenerative changes worst at the C5-6 and C6-7 
levels.  Minimal apparent loss of vertebral body height at the 
C5 and C6 levels is likely due to endplate degenerative changes. 
 Spinal canal narrowing is worst and mild-to-moderate at the 
C5-6 and C6-7 levels, due to endplate osteophytosis.  Neural 
foraminal narrowing is worst and moderate at the left C5-6 level 
due to uncovertebral hypertrophy.  There is no prevertebral soft 
tissue swelling. 
Partial opacification of the inferior right mastoid air cells is 
nonspecific, but likely chronic.  There is a 1.1 cm hypodense 
nodule in the right thyroid lobe (03:52). 
IMPRESSION: 
1. No acute fracture or traumatic malalignment. 
2. Multilevel degenerative changes with mild to moderate central 
canal 
narrowing mild to moderate at C5/C6 and C6/C7. 
3. 1.1 cm right thyroid lobe nodule does not require follow-up 
per ACR 
guidelines. 
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended. 
Absent suspicious imaging features, unless there is additional 
clinical 
concern, ___ College of Radiology guidelines do not 
recommend further 
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under age ___ or less than 1.5 cm in patients age ___ or 
___. 
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or invasion of local tissues by the thyroid nodule. 

___, et al, "Managing Incidental Thyroid Nodules Detected on 
Imaging: White Paper of the ACR Incidental Findings Committee". 
J ___ ___ 12:143-150. 

___ CT HEAD W/O CONTRAST 
FINDINGS:  
There is no evidence of acute intracranial large territory 
infarction,hemorrhage,edema,or mass effect.  The ventricles and 
sulci are 
normal in size and configuration.  Mild periventricular and 
subcortical white matter hypodensities are nonspecific but 
likely chronic sequela of small vessel ischemic disease. There 
is no evidence of acute fracture.  There is moderate mucosal 
thickening in the right maxillary sinus and mild mucosal 
thickening throughout the ethmoid air cells.  Partial 
opacification the right mastoid air cells is nonspecific, but 
likely chronic.  The middle ear cavities are clear.  
IMPRESSION: 
1. No acute intracranial hemorrhage or calvarial fracture. 
2. Mild paranasal sinus disease. 

___ TRAUMA #3 (PORT CHEST)
FINDINGS:  
The lungs are well inflated and clear.  The left costophrenic 
angle is 
incompletely imaged.  No large pneumothorax.  No pleural 
effusion.  Heart size is normal.  The mediastinal contours are 
unremarkable.  The visualized upper abdomen is unremarkable.  No 
grossly displaced fractures. 
IMPRESSION:  
No acute intrathoracic process. 
   

___ Cardiovascular Transthoracic Echo Report 
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The right atrial pressure could not 
be estimated. There is
normal left ventricular wall thickness with a normal cavity 
size. There is suboptimal image quality to assess regional left 
ventricular function. Quantitative 3D volumetric left 
ventricular ejection fraction
is 71 %. Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no resting left ventricular outflow tract 
gradient with no change with Valsalva. Normal right ventricular 
cavity size with normal
free wall motion. The aortic sinus diameter is normal for gender 
with normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve is not well seen. There is 
mild aortic
valve stenosis (valve area 1.5-1.9 cm2). There is moderate [2+] 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation.
The tricuspid valve leaflets appear structurally normal. There 
is mild [1+] tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion.
IMPRESSION: Aortic valve leaflets not well seen. Moderate aortic 
regurgitation. Mild aortic stenosis with increased gradients 
partly from the aortic regurgitation. Normal biventricular 
systolic function. Mild pulmonary hypertension.

DISCHARGE LABS:
===============
___ 07:22AM BLOOD WBC-6.4 RBC-4.99 Hgb-15.5 Hct-45.7 MCV-92 
MCH-31.1 MCHC-33.9 RDW-12.5 RDWSD-41.4 Plt ___
___ 07:22AM BLOOD ___ PTT-26.1 ___
___ 07:22AM BLOOD Glucose-105* UreaN-23* Creat-1.0 Na-142 
K-4.0 Cl-104 HCO3-26 AnGap-12
___ 07:22AM BLOOD ALT-22 AST-23 LD(LDH)-163 AlkPhos-40 
TotBili-1.6*
___ 07:22AM BLOOD Calcium-10.0 Phos-2.4* Mg-1.9
___ 07:22AM BLOOD %HbA1c-5.4 eAG-108
___ 12:13PM BLOOD Lactate-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of colon cancer 
(in remission s/p surgical resection), HTN, HLD, bicuspid aortic 
valve c/b mild AS & mod AI, who presents after syncope resulting 
in MVC. 

#Syncope
Prodromal visual changes, sweating, nausea, fatigue after 
swimming. Syncopized several minutes later. Lactate 4.1, 
prolactin 35 non-specific but suggestive of syncope. Tele 
without marked arrhythmia. Orthostatic negative ON home 
medications. TTE here done without marked change from prior 
based on ___ Cardiology report. He does have a 
bicuspid AV c/b mild AS & mod AI. Perhaps with strenuous 
exercise his afterload rises enough to increase AI, but would be 
unusual for this to cause syncope AFTER exercise. AS does not 
seem sufficient to cause syncope.
Patient advised against swimming until cleared by his 
cardiologist and no driving for 6 months.

#Post-MVC
Negative from fractures or bleed. Sutures placed in nasal bridge 
laceration, remove sutures in ___ days.

#Hypertension
Continued home medications. 

#Hyperlipidemia
Continued simvastatin.

===========================
 TRANSITIONAL ISSUES:
===========================
[ ] Can consider event monitor but low suspicion for arrhythmic 
origin
[ ] Please remove sutures after ___ days. 4 stitches total.
[ ] No driving until 6 months syncope free
[ ] Advise discussion about heavy exercise & further counseling 
on behavioral interventions related to prodromal symptoms.

# CODE: full (presumed) 
# CONTACT: 
___ 
Relationship: wife 
Cell phone: ___ 
 
___ on Admission:
1.  Atenolol 50 mg PO BID  
2.  Hydrochlorothiazide 12.5 mg PO DAILY  
3.  irbesartan 300 mg oral QHS  
4.  Simvastatin 40 mg PO QPM  

 
Discharge Medications:
1.  Atenolol 50 mg PO BID  
2.  Hydrochlorothiazide 12.5 mg PO DAILY  
3.  irbesartan 300 mg oral QHS  
4.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vasovagal Syncope
Bicuspid Aortic Valve w/Aortic Stenosis & Aortic Insufficiency
Hypertension
Post-Motor Vehicle Crash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___.

You were admitted after a car crash and fainting episode.

You had images which did not show a fracture.

Your stitches may be removed in 5 days.

You had an ultrasound of your heart which did not show marked 
change from ___. 

You should not drive until you are syncope (fainting) free for 
greater than 6 months. 

We advise you not swim until cleared by your cardiologist.

Once again, it was a pleasure caring for you at the ___ 
___ ___, and we wish you all the best.

Sincerely,
- Your ___ Team
 
Followup Instructions:
___